US08372807B2
A mixture of methyl 2-(4-(naphthalen-1-yl)-1,2,3-thiadiazol-5-ylthio)acetate (60 mg, 0.19 mmol), sodium hydroxide (10% aq. 5 mL) and methanol (5 mL) was stirred at reflux for 2 hours. The reaction was then cooled to room and the methanol removed. Water was added, neutralized with 1N HCl and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated. Purification by preparative thin layer chromatography (95% DCM/5% MeOH) afforded 2-(4-(Naphthalen-1-yl)-1,2,3-thiadiazol-5-ylthio)acetic acid as a solid.

reactant | methyl 2-(4-(naphthalen-1-yl)-1,2,3-thiadiazol-5-ylthio)acetate | 0.19 mmol, 60 mg | C1(=CC=CC2=CC=CC=C12)C=1N=NSC1SCC(=O)OC | C15H12N2O2S2
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 2-(4-(Naphthalen-1-yl)-1,2,3-thiadiazol-5-ylthio)acetic acid | C1(=CC=CC2=CC=CC=C12)C=1N=NSC1SCC(=O)O | C14H10N2O2S2
